US05246929
A mixture of 1H-naphtho[2,1-b][1,4]thiazin-2(3H)-one (5.17 g), 4-chlorobenzaldehyde (5.62 g), sodium methoxide (1.73 g) and dimethylformamide (80 ml) is refluxed for 4.5 hours. After cooling, the reaction mixture is poured into water and the resulting precipitate is separated by filtration, washed and dried and then is recrystallized from tetrahydrofuran-n-hexane to give 3-(4-chlorobenzylidene)-1H-naphtho[2,1-b][1,4]thiazin-2(3H)-one (4.28 g). M.p. 277°-279° C.

reactant | 1H-naphtho[2,1-b][1,4]thiazin-2(3H)-one | 5.17 g | N1C2=C(SCC1=O)C=CC1=CC=CC=C12 | C12H9NOS
reactant | 4-chlorobenzaldehyde | 5.62 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium methoxide | 1.73 g | C[O-].[Na+]
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(4-chlorobenzylidene)-1H-naphtho[2,1-b][1,4]thiazin-2(3H)-one | 4.28 g | ClC1=CC=C(C=C2C(NC3=C(S2)C=CC2=CC=CC=C23)=O)C=C1 | C19H12ClNOS
